US09353084B2
(6R)-3,5,5-Trifluoro-6-(2-fluoro-5-nitrophenyl)-3,6-dimethylpiperidin-2-one (2.08 g, 6.50 mmol) (1:1.8 mixture of diastereomers) was dissolved in methanol (28 ml). Ammonium formate (2.05 g, 32.5 mmol) was added followed by portionwise addition of palladium on carbon (1.38 g, 1.30 mmol, 10%). The reaction is slightly exothermic and the reaction mixture was briefly immersed into an ice/water bath to control the temperature increase. After the initial temperature increase had settled, the reaction was stirred at room temperature for another 10 min. The reaction was filtered through a plug of celite using methanol for elution. The filtrate was concentrated under reduced pressure and partitioned between ethyl acetate (100 mL) and saturated aqueous NaHCO3 (50 mL). The phases were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organics were dried over MgSO4, filtered and concentrated under reduced pressure to afford (6R)-6-(5-amino-2-fluorophenyl)-3,5,5-trifluoro-3,6-dimethylpiperidin-2-one (1.73 g, 5.96 mmol, 92% yield) (1:1.8 mixture of diastereomers). LC-MS Major: (m/z) 291.0 (MH+-tert-butyl) tR=0.40 minutes (Method B); Minor: (m/z) 291.0 (MH+) tR=0.41 minutes (Method B). The crude material was used in the next reaction step without further purification.

reactant | (6R)-3,5,5-Trifluoro-6-(2-fluoro-5-nitrophenyl)-3,6-dimethylpiperidin-2-one | 6.50 mmol, 2.08 g | FC1(C(N[C@](C(C1)(F)F)(C)C1=C(C=CC(=C1)[N+](=O)[O-])F)=O)C | C13H12F4N2O3
reactant | Ammonium formate | 32.5 mmol, 2.05 g | C(=O)[O-].[NH4+]
solvent | methanol | 28 ml | CO | CH4O
catalyst | palladium on carbon | 1.30 mmol, 1.38 g | [Pd] | Pd
product | (6R)-6-(5-amino-2-fluorophenyl)-3,5,5-trifluoro-3,6-dimethylpiperidin-2-one | 5.96 mmol, 1.73 g, 92% yield | NC=1C=CC(=C(C1)[C@@]1(C(CC(C(N1)=O)(C)F)(F)F)C)F | C13H14F4N2O
